US04511724
Ethyl 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (500 mg) was stirred with 10 ml of methanol and 10 ml of 10% NaOH for two hours. 200 ml of saturated sodium chloride solution was added to the resulting mixture and the methanol distilled off under reduced pressure. The aqueous solution was acidified with 3N HCl while stirring, cooled and the resulting precipitate collected by filtration. The residue was washed with water, air dried and recrystallized from ethylacetate-hexane to yield 450 mg of 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid, m.p. 182°-184° C.

reactant | Ethyl 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 500 mg | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)OCC)C | C18H22N2O3S
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 450 mg | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)O)C | C16H18N2O3S
